US08013156B2
A solution of (2-fluoro-pyridin-4-yl)-methanol (450 mg, 3.54 mmol) in 28% aqueous ammonia (5 mL) was heated in a sealed pressure tube at 150° C. for 17 h and at 175° C. for 21 h. The cooled solution was evaporated to a residue, which was partitioned between 1M K2CO3 and ethyl acetate. The aqueous phase was saturated with NaCl and extracted with several portions of ethyl acetate. The combined organic extracts were dried (Na2SO4), filtered and evaporated. The crude residue was dissolved in t-BuOH (5 mL) and was treated with di-tert-butyl dicarbonate (405 mg, 1.85 mmol) and stirred at room temperature for 15 h. The solvent was evaporated, and the crude residue was chromatographed on silica gel (1/1-CH2Cl2/ethyl acetate) to afford (4-hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (196 mg, 25%) as a solid: 1H NMR (400 MHz, CDCl3) δ 1.53 (s, 9H), 2.27 (br s, 1H), 4.72 (s, 2H), 6.98 (m, 1H), 7.93 (s, 1H), 8.24 (d, 1H, J=5.2), 8.65 (s, 1H).

reactant | (2-fluoro-pyridin-4-yl)-methanol | 3.54 mmol, 450 mg | FC1=NC=CC(=C1)CO | C6H6FNO
reactant | di-tert-butyl dicarbonate | 1.85 mmol, 405 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonia | 5 mL | N | H3N
product | (4-hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 196 mg, 25% | C(C)(C)(C)OC(NC1=NC=CC(=C1)CO)=O | C11H16N2O3
